US08563717B2
Intermediate 20: 2-(1-Ethyl-4-piperidinyl)ethanol
To a stirring solution of 2-(4-piperidinyl)ethanol (1 g, 7.74 mmol) and potassium carbonate (2.67 g, 19.35 mmol) in dry DMF (10 ml) was added iodoethane (0.687 ml, 8.51 mmol). The reaction mixture was allowed to stir at room temperature for 18 hours. The solvent was partially removed in vacuo and the residue partitioned between water (20 ml) and ethyl acetate (20 ml). The aqueous was washed with further ethyl acetate and the combined organics dried (hydrophobic frit) and concentrated in vacuo to give the title compound as a mixture with residual DMF as a clear oil, 1.55 g

reactant | 2-(4-piperidinyl)ethanol | 7.74 mmol, 1 g | N1CCC(CC1)CCO | C7H15NO
reactant | potassium carbonate | 19.35 mmol, 2.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 8.51 mmol, 0.687 ml | ICC | C2H5I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(1-Ethyl-4-piperidinyl)ethanol | C(C)N1CCC(CC1)CCO | C9H19NO
